US07612114B2
2-Fluoro-4-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]ethyl}phenol
Synthesized from 1-benzyloxy-4-ethynyl-2-fluorobenzene and 2-(2-iodo-4-methoxyphenyl)-6-methoxy-1,2,3,4-tetrahydronaphthalene according to an analogous synthetic method to Preparation Example 45, 2-[2-(4-benzyloxy-3-fluorophenylethynyl)-4-methoxyphenyl]-6-methoxy-1,2,3,4-tetrahydronaphthalene (776 mg) was used according to an analogous synthetic method to Example 22 to provide the title compound (546 mg).

reactant | 1-benzyloxy-4-ethynyl-2-fluorobenzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C#C)F | C15H11FO
reactant | 2-(2-iodo-4-methoxyphenyl)-6-methoxy-1,2,3,4-tetrahydronaphthalene | IC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C18H19IO2
reactant | 2-[2-(4-benzyloxy-3-fluorophenylethynyl)-4-methoxyphenyl]-6-methoxy-1,2,3,4-tetrahydronaphthalene | 776 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C#CC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)F | C33H29FO3
product | 2-Fluoro-4-{2-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]ethyl}phenol | 546 mg | FC1=C(C=CC(=C1)CCC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)O | C26H27FO3
